US09334290B2
A stirred solution of ethyl 2-(3-methoxypyridin-2-yl)acetate (0.17 g, 0.871 mmol) in THF (2.5 mL) at room temperature was treated with 3 M aqueous NaOH (0.581 mL, 1.74 mmol). After 7 h, the mixture was concentrated to remove the THF and the aqueous residue was frozen on dry ice and lyophilized to provide sodium 2-(3-methoxypyridin-2-yl)acetate as a white solid. A quantitative yield was assumed and the material used without further purification. Mass spectrum m/z 168 (M+H)+.

reactant | ethyl 2-(3-methoxypyridin-2-yl)acetate | 0.871 mmol, 0.17 g | COC=1C(=NC=CC1)CC(=O)OCC | C10H13NO3
reactant | NaOH | 1.74 mmol, 3 M, 0.581 mL | [OH-].[Na+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | sodium 2-(3-methoxypyridin-2-yl)acetate | quantitative yield | COC=1C(=NC=CC1)CC(=O)[O-].[Na+] | InChI=1S/C8H9NO3.Na/c1-12-7-3-2-4-9-6(7)5-8(10)11;/h2-4H,5H2,1H3,(H,10,11);/q;+1/p-1
